US08581042B2
Specific activity. 4-Nitrophenyl-beta-D-glucopyranoside (pNPG) was dissolved in DMSO to produce a 100 mM stock solution. Right before assay, the 100 mM pNPG stock solution was diluted 100-fold in 50 mM sodium acetate pH 5 with 0.01% TWEEN® 20 to 1 mM pNPG. Enzyme was diluted to a wide range of concentrations in the same buffer. To 20 μl of the enzyme dilutions (a range of concentration), 100 μl of the 1 mM pNPG solution were quickly added. The reaction was incubated at 40° C. for 20 minutes before the reaction was stopped with 50 μl of 1 M sodium carbonate pH 10, and the absorbance at 405 nm was measured for 4-nitrophenolate production. The specific activity of the Penicillium oxalicum GH3 beta-glucosidase on pNPG was determined to be 72.3±1.7 IU/mg, where one mg of enzyme produce 1 μmole of glucose per minute at 40° C., pH 5.

reactant | 4-Nitrophenyl-beta-D-glucopyranoside | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C12H15NO8
solvent | DMSO | CS(=O)C | C2H6OS
solvent | sodium acetate | 50 mM, pH 5 | C(C)(=O)[O-].[Na+]
solvent | pNPG | 1 mM | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C12H13NO9
solvent | pNPG | 100 mM | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C(=O)O)O)O)O | C12H13NO9
product | glucose | 1 μmole | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
